US06586421B2
NaCNBH3 (0.223 g, 3.54 mmol) was added to a solution of 10-(2,6-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.336 g, 1.13 mmol) in CF3CO2H (6 mL), which was cooled in an ice-water bath. After stirring for 4 h, the reaction mixture was quenched by adding 6N HCl (6 mL). The resulting mixture was refluxed for 0.45 h. The mixture was cooled and made basic by the addition of 6 N NaOH (25 mL). The basic mixture was combined with CHCl3 (30 mL) and H2O (5 mL) and the layers were separated. The aqueous layer was extracted with CHCl3 (2×50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product (0.78 g) was chromatographed (SiO2 35 g, eluted with 90:10:2 CH2Cl2:CH3OH:conc. NH4OH) to yield 10-(2,6-difluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole (0.232 g) in 69% yield. 1H NMR (400 MHz, CD3OD) δ 1.37, 1.61, 1.94, 2.05, 2.44, 2.65-2.73, 3.05, 3.54, 4.19, 6.52, 6.63, 7.03-7.09, 7.41; MS (ESI+) for C18H18F2N2 m/z 301.2 (M+H)+.

reactant | NaCNBH3 | 3.54 mmol, 0.223 g | [BH3-]C#N.[Na+]
reactant | 10-(2,6-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.13 mmol, 0.336 g | FC1=C(C(=CC=C1)F)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C18H16F2N2
solvent | CF3CO2H | 6 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | 10-(2,6-difluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 0.232 g, 69% yield | FC1=C(C(=CC=C1)F)C=1C=2C3C(NC2C=CC1)CCNCC3 | C18H18F2N2
